US05959107
5-Isoquinolinethiol 500 mg (3.1 mmol) was dissolved in DMF 20 ml, 5-fluoro-6-nitro-benzooxazolinone 670 mg (3.1 mmol) and potassium carbonate 1.29 g (9.3 mmol) were added, and the mixture was heated with stirring overnight at 130° C. The reaction mixture was concentrated under reduced pressure, acetone 20 ml was added to the residue, and insoluble materials were filtered. Chloroform 50 ml was added to the organic layer, the resulting precipitates were collected to give 6-(5-isoquinolylsulfanyl)-5-nitro-2,3-dihydro-benzo[d][1,3]oxazol-2-one 400 mg (38.0%).

reactant | 5-Isoquinolinethiol | 3.1 mmol, 500 mg | C1=NC=CC=2C(=CC=CC12)S | C9H7NS
reactant | 5-fluoro-6-nitro-benzooxazolinone | 3.1 mmol, 670 mg | FC=1C(=CC2=C(NC(O2)=O)C1)[N+](=O)[O-] | C7H3FN2O4
reactant | potassium carbonate | 9.3 mmol, 1.29 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 6-(5-isoquinolylsulfanyl)-5-nitro-2,3-dihydro-benzo[d][1,3]oxazol-2-one | 400 mg, 38.0% | C1=NC=CC2=C(C=CC=C12)SC1=CC2=C(NC(O2)=O)C=C1[N+](=O)[O-] | C16H9N3O4S
